US04113722
(A) 11β-(Acetyloxy)-9-fluoropregna-1,4,16-triene-3,20-dione
A solution of 9-fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione (1.0g) in a mixture of acetic acid (70 ml) and acetic anhydride (70 ml) containing p-toluenesulfonic acid hydrate (500 mg) is stirred at room temperature for 60 hours. Sodium acetate (2.0g) is added and the mixture is concentrated in vacuo. The residue is mixed with water and washed with a dilute sodium bicarbonate solution and water, dried and the residue is crystallized from ethyl acetate-hexane to afford 0.9g of the title compound, melting point 202°-203° C.

reactant | 9-fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione | 1.0g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C(C(C)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H25FO3
reactant | p-toluenesulfonic acid hydrate | 500 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Sodium acetate | 2.0g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 11β-(Acetyloxy)-9-fluoropregna-1,4,16-triene-3,20-dione | 0.9g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(C)=O)[C@]2(C1)C)=O)C)F | C23H27FO4
